US06080757
A. 4-Oxo-4H-quinoline-1,3-dicarboxylic acid 1-t-butyl ester 3-ethyl ester
To a solution of 1H-quinolin-4-one-3-carboxylic acid ethyl ester (28 g, 129 mmol) and triethylamine (21.6 mL, 155 mmol) in dimethylformamide (DMF) (250 mL) was added di-t-butyidicarbonate [(BOC)2O] (34 g, 155 mmol). The resulting solution was stirred at ambient temperature for 3 hours, then quenched with 1M aqueous hydrogen chloride and extracted with ethyl acetate (EtOAc). The combined organics were dried over magnesium sulfate and concentrated in vacuo. The crude product was purified by trituration in diethyl ether/hexanes (1:1) to give the title compound (39.5 g, 96%).

reactant | 1H-quinolin-4-one-3-carboxylic acid ethyl ester | 129 mmol, 28 g | C(C)OC(=O)C1=CNC2=CC=CC=C2C1=O | C12H11NO3
reactant | triethylamine | 155 mmol, 21.6 mL | C(C)N(CC)CC | C6H15N
reactant | di-t-butyidicarbonate | 155 mmol, 34 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
product | 4-Oxo-4H-quinoline-1,3-dicarboxylic acid 1-t-butyl ester 3-ethyl ester | 39.5 g, 96% | C(C)OC(=O)C1=CN(C2=CC=CC=C2C1=O)C(=O)OC(C)(C)C | C17H19NO5
